* BFQ245 SPICE MODEL
* PHILIPS SEMICONDUCTORS
* Date : April 1997
*
* PACKAGE : SOT128 DIE MODEL: XV241
* 1: COLLECTOR; 2: BASE; 3: EMITTER

.SUBCKT XV241 1 2 3  
Cbpb 1 2 7E-14 
Cbpe 1 3 7E-14 
Q1 1 2 3 3 XV241
*
* PHILIPS SEMICONDUCTORS
* Version:   1.0
* Date: Apr 1997
* 
.MODEL XV241 PNP 
+ IS = 6.37E-15 
+ BF = 33.31 
+ NF = 1.049 
+ VAF = 29.31 
+ IKF = 1 
+ ISE = 4.857E-14 
+ NE = 1.595 
+ BR = 9.2 
+ NR = 1.045 
+ VAR = 8 
+ IKR = 0.04645 
+ ISC = 3.109E-13 
+ NC = 1.307 
+ RB = 0.2036 
+ IRB = 0 
+ RBM = 0.07418 
+ RE = 1.397 
+ RC = 1.099 
+ CJE = 1.495E-11 
+ VJE = 0.6 
+ MJE = 0.3008 
+ CJC = 3.323E-12 
+ VJC = 0.5576 
+ MJC = 0.4273 
+ CJS = 0 
+ VJS = 0.7 
+ MJS = 0 
+ XCJC = 0.1647 
+ TR = 0 
+ TF = 1.3E-10 
+ XTF = 120 
+ VTF = 3.25 
+ ITF = 0.795 
+ PTF = 0 
+ FC = 0.82 
.ENDS
